US06482848B2
Synthesis of 1-{(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}ethyl acetate (4a)
A mixture of acetic anhydride (2.1 g, 20 mmol), acetaldehyde (4.4 g, 100 mmol), triethylamine (2.0 g, 20 mmol) and 3-(3,5-dimethyl-1H-pyrrol-2-ylmethylidene)-1,3-dihydro-indol-2-one (2.38 g, 10 mmol) in DMF (30 mL) was stirred at room temperature for 3 days. The solvents were removed and the residual oil was chromatographed on silica gel to give, as the first product eluted from the column, 2.5 g of product, which was crystallized from ether to give 2.1 g of the title compound, mp 107-110° C. HPLC Rt 6.78 min. 1H NMR (CDCl3) δ1.81 (d, 3H), 2.09 (s, 3H), 2.33 (s, 3H), 2.38 (s, 3H), 5.98 (s, 2H), 7.00-7.20 (m, 3H), 7.25 (dd, 1H), 7.39 (s, 1H), 7.51 (dd, 1H) and 13.0 (br s, 1 H). Anal. Calcd for C19H20N2O3: C, 70.35; H, 6.21; N, 8.64. Found: C, 70.33; H, 6.18; N, 8.60.

reactant | acetic anhydride | 20 mmol, 2.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetaldehyde | 100 mmol, 4.4 g | C(C)=O | C2H4O
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | 3-(3,5-dimethyl-1H-pyrrol-2-ylmethylidene)-1,3-dihydro-indol-2-one | 10 mmol, 2.38 g | CC1=C(NC(=C1)C)C=C1C(NC2=CC=CC=C12)=O | C15H14N2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-{(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}ethyl acetate | 2.1 g | C(C)(=O)OC(C)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C19H20N2O3
